US08470841B2
2b. N-[3-(4-Hydroxyphenyl)-1-methylpropyl]acetamide
4-(3-Acetylaminobutyl)phenyl acetate (1.06 g, 4.25 mmol) was dissolved in 10 ml of methanol and, after addition of sodium methoxide (689.3 mg, 12.76 mmol), the reaction mixture was stirred at RT for 2 h. The pH was adjusted to 7 by adding dilute hydrochloric acid, and the mixture was extracted with ethyl acetate. The organic phases were combined and concentrated in vacuo. Yield: 805 mg (91%), M+H+: 208.15.

reactant | 4-(3-Acetylaminobutyl)phenyl acetate | 4.25 mmol, 1.06 g | C(C)(=O)OC1=CC=C(C=C1)CCC(C)NC(C)=O | C14H19NO3
reactant | sodium methoxide | 12.76 mmol, 689.3 mg | C[O-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
product | N-[3-(4-Hydroxyphenyl)-1-methylpropyl]acetamide | OC1=CC=C(C=C1)CCC(C)NC(C)=O | C12H17NO2
